US06476041B1
3-[2-(1-Methyl-3-oxo-propyl)-benzoimidazol-1-yl]-propionitrile:
To a stirred solution of 1.0 mL of oxalyl chloride in 20 mL of methylene chloride cooled to −78° C. was added 2 mL of anhydrous DMSO. After 15 min, a solution of 1 g of 3-[2-(3-hydroxy-1-methyl-propyl)-benzoimidazol-1-yl]-propionitrile in 20 mL of anhydrous DMSO and 50 mL of methylene chloride was added keeping the temperature below −50° C. After 10 min, 10 mL of triethyl amine was added and the mixture allowed to warm to room temperature. After 15 min, the mixture was diluted with 250 mL of water, shaken and separated. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crude 3-[2-(3-oxo-propyl)-benzimidazol-1-yl]-propionitrile was an amber resin (1.2 g), and contained only traces of the starting alcohol by TLC (90:10 methylene chloride:methanol).

reactant | oxalyl chloride | 1.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[2-(3-hydroxy-1-methyl-propyl)-benzoimidazol-1-yl]-propionitrile | 1 g | OCCC(C)C1=NC2=C(N1CCC#N)C=CC=C2 | C14H17N3O
reactant | triethyl amine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 250 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-[2-(1-Methyl-3-oxo-propyl)-benzoimidazol-1-yl]-propionitrile | CC(CC=O)C1=NC2=C(N1CCC#N)C=CC=C2 | C14H15N3O
